US05840751
5,6-Dihydro-4-hydroxy-6-phenyl-6-propyl-2H-pyran-2-one, (+/-)
The title compound was prepared as described in the General Method 1 using 5 mmol of methyl acetoacetate, 5.5 mmol of NaH 60% dispersion in oil, 5.5 mmol of 1.6M n-butyl lithium in hexane, 5.5 mmol of butyrophenone and 14 mL of tetrahydrofuran. After addition of the ketone, the reaction was stirred for 90 minutes at 0° C. The reaction was poured into saturated NH4Cl solution and extracted with ethyl acetate. The organic layer was dried over MgSO4, concentrated, and the residue flash chromatographed using hexane/ethyl acetate 80/20 as eluent. The aldol product was stirred at room temperature in 100 mL of 0.1N NaOH for 3.5 hours. The reaction was worked up as in General Method 1 and the product triturated from diethyl ether to afford a solid (m.p. 131.5°-132° C.). 1H NMR (CDCl3) δ 0.88 (t, 3 H), 1.1-1.4 (m, 2 H), 1.95 (m, 2 H), 2.90 (d, 1 H), 2.92 (d, 1 H), 3.25 (d, 1 H), 3.35 (d, 1 H), 7.2-7.4 (m, 5 H).

reactant | methyl acetoacetate | 5 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | NaH | 5.5 mmol | [H-].[Na+]
reactant | n-butyl lithium | 5.5 mmol, 1.6M | C(CCC)[Li]
reactant | butyrophenone | 5.5 mmol | C(CCC)(=O)C1=CC=CC=C1 | C10H12O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
product | 5,6-Dihydro-4-hydroxy-6-phenyl-6-propyl-2H-pyran-2-one | OC1=CC(OC(C1)(CCC)C1=CC=CC=C1)=O | C14H16O3
